US06642250B2
The procedure of Example 1 was repeated using 2-(3-nitrophenylamino)nicotinaldehyde (1.0 eq.), ethyl 6-(benzothiazol-2-yl)hexanoate (1.5 eq., prepared according to the procedure of Example 13 in JP, A, 8-208631 (1996)) and LDA (1.5 eq.) to obtain 1-(3-nitrophenyl)-3-[4-(benzothiazol-2-yl)butyl]-1,8-naphthyridin-2(1H)-one, mp 167.5 to 169.5° C./DMF, wherein the product was purified through silica gel column chromatography and recrystallization.

reactant | 2-(3-nitrophenylamino)nicotinaldehyde | 1.0 eq. | [N+](=O)([O-])C=1C=C(C=CC1)NC1=C(C=O)C=CC=N1 | C12H9N3O3
reactant | ethyl 6-(benzothiazol-2-yl)hexanoate | S1C(=NC2=C1C=CC=C2)CCCCCC(=O)OCC | C15H19NO2S
reactant | LDA | 1.5 eq. | [Li+].CC(C)[N-]C(C)C
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-(3-nitrophenyl)-3-[4-(benzothiazol-2-yl)butyl]-1,8-naphthyridin-2(1H)-one | [N+](=O)([O-])C=1C=C(C=CC1)N1C(C(=CC2=CC=CN=C12)CCCCC=1SC2=C(N1)C=CC=C2)=O | C25H20N4O3S
